US06242422B1
(3S)-3-[N-((1-Naphthyloxy)Acetyl)Leucinyl]Amino-4-Oxobutanoic Acid tert-Butyl Ester Semicarbazone
To a solution of (1-naphthyloxy)acetic acid (0.150 g, 0.74 mmol) and (3S)-3-(leucinyl)amino-4-oxobutanoic acid tert-butyl ester semicarbazone (0.360 g, ca 0.83 mmol) in N-methylpyrrolidone(2.0 mL)-CH2Cl2(2.0 mL) at 0° C. (ice bath) under nitrogen was added hydroxybenzotriazole hydrate (0.130 g) followed by 1-ethyl-3-(3′,3′-dimethyl-1′-aminopropyl)carbodiimide hydrochloride (0.195 g, 1.02 mmol). After stirring at 0° C. for 1 hrs and at room temperature for 5 hrs, the mixture was partitioned between EtOAc-water. The organic phase was washed with water, 5% KHSO4, saturated NaHCO3 and saturated NaCl solutions, dried over anhydrous Na2SO4 and evaporated to dryness. The crude product was purified by flash chromatography eluting with MeOH—CH2Cl2 (2:100 then 5:100) to give the title compound (0.366 g, 94%) as a colorless foam, TLC(MeOH—CH2Cl2; 5:95) Rf=0.20.

reactant | (1-naphthyloxy)acetic acid | 0.74 mmol, 0.150 g | C1(=CC=CC2=CC=CC=C12)OCC(=O)O | C12H10O3
reactant | (3S)-3-(leucinyl)amino-4-oxobutanoic acid tert-butyl ester semicarbazone | ca 0.83 mmol, 0.360 g | C(C)(C)(C)OC(C[C@@H](C=O)NC([C@@H](N)CC(C)C)=O)=NNC(=O)N | C15H29N5O4
reactant | hydroxybenzotriazole hydrate | 0.130 g | O.OC1=CC=CC=2NN=NC21
reactant | 1-ethyl-3-(3′,3′-dimethyl-1′-aminopropyl)carbodiimide hydrochloride | 1.02 mmol, 0.195 g | Cl.C(C)N=C=NC(CC(C)C)N
solvent | N-methylpyrrolidone | 2.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
product | (3S)-3-[N-((1-Naphthyloxy)Acetyl)Leucinyl]Amino-4-Oxobutanoic Acid tert-Butyl Ester Semicarbazone | 0.366 g, 94% | C(C)(C)(C)OC(C[C@@H](C=O)NC([C@@H](NC(COC1=CC=CC2=CC=CC=C12)=O)CC(C)C)=O)=NNC(=O)N | C27H37N5O6
